US04603135
Diketene (0.33 ml) was added to a solution of 4-diphenylmethyl-1-piperidineethanol (1.04 g) in toluene (2 ml) at 70° C. and the mixture was stirred at 70° C. for an hour. The solvent was distilled off under reduced pressure and the residue was purified by silica gel chromatography [hexane-ethyl acetate (2:3, v/v)] to give 2-(4-diphenylmethylpiperidino)ethyl acetoacetate as an oil. Yield 1.23 g (92.1%).

reactant | Diketene | 0.33 ml | C=C1CC(=O)O1 | C4H4O2
reactant | 4-diphenylmethyl-1-piperidineethanol | 1.04 g | C1(=CC=CC=C1)C(C1CCN(CC1)CCO)C1=CC=CC=C1 | C20H25NO
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-diphenylmethylpiperidino)ethyl acetoacetate | C(CC(=O)C)(=O)OCCN1CCC(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H29NO3
